US08030518B2
Step E: 6-Amino-5,7-dimethyl-3,4-dihydronaphthalen-1(2H)-one
To a solution of 5,7-dimethyl-6-nitro-3,4-dihydronaphthalen-1(2H)-one (1 g, 4.56 mmol) in 50 ml of methanol was added a catalytic amount of Raney Ni. The mixture was hydrogenated under regular pressure at room temperature for 4 hours and filtered through Celite and washed with methanol. The filtrate was evaporated to dryness under reduced pressure and dried in vacuo to give the crude product, which is pure enough for next step. 1H-NMR δ (CDCl3, 300 MHz): 7.77 (s, 1H), 4.09 (brs, 2H, exchangeable with D2O), 2.85 (t, J=6.0 Hz, 2H), 2.54 (t, J=6.0 Hz, 2H), 2.19 (s, 3H), 2.09 (s, 3H), 2.10 (m, 2H).

reactant | 5,7-dimethyl-6-nitro-3,4-dihydronaphthalen-1(2H)-one | 4.56 mmol, 1 g | CC1=C2CCCC(C2=CC(=C1[N+](=O)[O-])C)=O | C12H13NO3
solvent | methanol | 50 ml | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | 6-Amino-5,7-dimethyl-3,4-dihydronaphthalen-1(2H)-one | NC=1C(=C2CCCC(C2=CC1C)=O)C | C12H15NO
